US05493046
2-iodo-N-[(propylamino)-carbonyl]-1-benzene-sulfonamide (product 2)
4 g of iodobenzene-sulfonamide and 40 ml of acetone were mixed together and 3.92 g of potassium carbonate were added. The reaction was heated to reflux and 1.46 ml of n-propyl isocyanate were added. The medium was maintained at reflux for 2 hours, and after concentrating, 200 ml of water were added. Then, while cooling the reaction mixture to approximately 0°-5° C., a 2N hydrochloric acid solution was added until a pH of 3 was obtained. After crystallizing from acetone-isopropyl ether, 4.9 g of the expected product melting at 211°-212° C. were obtained.

reactant | iodobenzene-sulfonamide | 4 g | IC1=C(C=CC=C1)S(=O)(=O)N | C6H6INO2S
reactant | potassium carbonate | 3.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propyl isocyanate | 1.46 ml | C(CC)N=C=O | C4H7NO
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-iodo-N-[(propylamino)-carbonyl]-1-benzene-sulfonamide | 4.9 g | IC1=C(C=CC=C1)S(=O)(=O)NC(=O)NCCC | C10H13IN2O3S
